### PR TITLE
[Merged by Bors] - feat(Order/InitSeg): notation for initial and principal segments of `<`

### PR DESCRIPTION
**Pull request by vihdzp**
We introduce the notations `α ≤i β` and `α <i β` for initial/principal segment embeddings between the `<` relations of two types. We also prove a few lemmas.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/InitialSeg.lean [hunk 1]
```diff
@@ -50,12 +52,15 @@ structure InitialSeg {α β : Type*} (r : α → α → Prop) (s : β → β →
...
-embedding whose range is an initial segment. That is, whenever `b < f a` in `β` then `b` is in the
-range of `f`. -/
+@[inherit_doc]
 infixl:25 " ≼i " => InitialSeg
 
+/-- An `InitialSeg` between the `<` relations of two types. -/
+abbrev InitialSegLT (α β : Type*) [LT α] [LT β] := @InitialSeg α β (· < ·) (· < ·)
+
+@[inherit_doc]
+infixl:25 " ≤i " => InitialSegLT
```
Comment (YaelDillies) [inline Mathlib/Order/InitialSeg.lean:62]: Why make it an abbrev?
```suggestion
/-- An `InitialSeg` between the `<` relations of two types. -/
notation:25 alpha:24 " ≤i " beta:25 => @InitialSegLT α β (· < ·) (· < ·)
```
or something like that

File: Mathlib/Order/InitialSeg.lean [hunk 2]
```diff
@@ -71,6 +76,21 @@ instance : FunLike (r ≼i s) α β where
...
+embedding. -/
+def toOrderEmbedding [PartialOrder α] [PartialOrder β] (f : α ≤i β) : α ↪o β :=
+  f.orderEmbeddingOfLTEmbedding
+
+@[simp]
+theorem toOrderEmbedding_apply [PartialOrder α] [PartialOrder β] (f : α ≤i β) (x : α) :
+    f.toOrderEmbedding x = f x :=
+  rfl
+
+@[simp]
```
Comment (YaelDillies) [inline Mathlib/Order/InitialSeg.lean:89]:
```suggestion
@[simp, norm_cast]
```

File: Mathlib/Order/InitialSeg.lean [hunk 3]
```diff
@@ -198,6 +218,48 @@ protected theorem acc (f : r ≼i s) (a : α) : Acc r a ↔ Acc s (f a) :=
...
+  obtain rfl | hb := h.eq_or_lt
+  exacts [⟨a, rfl⟩, f.mem_range_of_rel hb]
+
+@[simp]
+theorem le_iff_le [PartialOrder α] (f : α ≤i β) : f a ≤ f a' ↔ a ≤ a' :=
+  f.toOrderEmbedding.le_iff_le
+
+@[simp]
+theorem lt_iff_lt [PartialOrder α] (f : α ≤i β) : f a < f a' ↔ a < a' :=
+  f.toOrderEmbedding.lt_iff_lt
```
Comment (YaelDillies) [inline Mathlib/Order/InitialSeg.lean:235]: Can you check gcongr proves the <- direction? If it doesn't, you might need to add an `OrderHomClass` instance

File: Mathlib/Order/InitialSeg.lean [hunk 4]
```diff
@@ -27,6 +27,8 @@ These notations belong to the `InitialSeg` locale.
 
 * `r ≼i s`: the type of initial segment embeddings of `r` into `s`.
 * `r ≺i s`: the type of principal segment embeddings of `r` into `s`.
+* `α ≤i β` is an abbreviation for `(· < ·) ≼i (· < ·)`.
+* `α <i β` is an abbreviation for `(· < ·) ≺i (· < ·)`.
```
Comment (YaelDillies) [inline Mathlib/Order/InitialSeg.lean:31]: Can you discuss in the module doc why this pair of notations makes sense for initial and principal segments?

File: Mathlib/Order/InitialSeg.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:62]: Nice! I'm not really familiar with the `notation` syntax, but this is much cleaner.

File: Mathlib/Order/InitialSeg.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:86]: "badly shaped lemma, rhs can't start with coe"

File: Mathlib/Order/InitialSeg.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:235]: I added the `OrderHomClass` instance, but this still makes no progress:
```
example [PartialOrder α] (f : α ≤i β) (h : a ≤ a') : f a ≤ f a' := by gcongr
```

File: Mathlib/Order/InitialSeg.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:86]: "badly shaped lemma, rhs can't start with coe"

File: Mathlib/Order/InitialSeg.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:235]: I added the `OrderHomClass` instance, but this still makes no progress:
```lean 4
example [PartialOrder α] (f : α ≤i β) (h : a ≤ a') : f a ≤ f a' := by gcongr
```

File: Mathlib/Order/InitialSeg.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:31]: I just kinda came up with it. My reasoning is that `≼` and `≺` refer to "general" relations, while `≤` and `<` are linked to the order typeclass hierarchy.

Comment (YaelDillies) [reply Mathlib/Order/InitialSeg.lean:31]: Sure, but why is "initial segment" the non-strict version of "principal segment"?

Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:31]: Because of [`InitialSeg.ltOrEq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/InitialSeg.html#InitialSeg.ltOrEq). Do I link that lemma in this notation section?

File: Mathlib/Order/InitialSeg.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:235]: Did you happen to add it in #17224? Because that PR is open :P

File: Mathlib/Order/InitialSeg.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:31]: I've added a small comment referring to this theorem.

File: Mathlib/Order/InitialSeg.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Order/InitialSeg.lean:238]: Ah damn!

**Comment by YaelDillies** [comment]
Sorry, I see I commented on the wrong PR. See the dependent PR.

**Review by YaelDillies — APPROVED** [review]
maintainer merge

File: Mathlib/Order/InitialSeg.lean [hunk 5]
```diff
@@ -50,12 +56,12 @@ structure InitialSeg {α β : Type*} (r : α → α → Prop) (s : β → β →
   /-- The order embedding is an initial segment -/
   mem_range_of_rel' : ∀ a b, s b (toRelEmbedding a) → b ∈ Set.range toRelEmbedding
 
--- Porting note: Deleted `scoped[InitialSeg]`
```
Comment (b-mehta) [inline Mathlib/Order/InitialSeg.lean:53]: This note still applies, I'm pretty sure

File: Mathlib/Order/InitialSeg.lean [hunk 6]
```diff
@@ -219,12 +285,12 @@ structure PrincipalSeg {α β : Type*} (r : α → α → Prop) (s : β → β 
   /-- The image of the order embedding is the set of elements `b` such that `s b top` -/
   down' : ∀ b, s b top ↔ ∃ a, toRelEmbedding a = b
 
--- Porting note: deleted `scoped[InitialSeg]`
```
Comment (b-mehta) [inline Mathlib/Order/InitialSeg.lean:222]: as before

File: Mathlib/Order/InitialSeg.lean [hunk 7]
```diff
@@ -71,6 +77,24 @@ instance : FunLike (r ≼i s) α β where
...
+theorem toOrderEmbedding_apply [PartialOrder α] [PartialOrder β] (f : α ≤i β) (x : α) :
+    f.toOrderEmbedding x = f x :=
+  rfl
+
+@[simp]
+theorem coe_toOrderEmbedding [PartialOrder α] [PartialOrder β] (f : α ≤i β) :
+    (f.toOrderEmbedding : α → β) = f :=
+  rfl
+
+instance [PartialOrder α] [PartialOrder β] : OrderHomClass (α ≤i β) α β where
```
Comment (b-mehta) [inline Mathlib/Order/InitialSeg.lean:95]: In the general (not-partial-order) case, we also have RelHomClass here, right?

File: Mathlib/Order/InitialSeg.lean [hunk 8]
```diff
@@ -198,6 +222,48 @@ protected theorem acc (f : r ≼i s) (a : α) : Acc r a ↔ Acc s (f a) :=
...
+section PartialOrder
+
+variable [PartialOrder β] {a a' : α} {b : β}
+
+theorem mem_range_of_le [Preorder α] (f : α ≤i β) (h : b ≤ f a) : b ∈ Set.range f := by
+  obtain rfl | hb := h.eq_or_lt
+  exacts [⟨a, rfl⟩, f.mem_range_of_rel hb]
+
+@[simp]
+theorem le_iff_le [PartialOrder α] (f : α ≤i β) : f a ≤ f a' ↔ a ≤ a' :=
```
Comment (b-mehta) [inline Mathlib/Order/InitialSeg.lean:234]: Seems like this and the below should all follow nicely if we had RelEmbeddingClass... Let's add a TODO to this effect

File: Mathlib/Order/InitialSeg.lean [hunk 9]
```diff
@@ -219,12 +285,12 @@ structure PrincipalSeg {α β : Type*} (r : α → α → Prop) (s : β → β 
...
 
--- Porting note: deleted `scoped[InitialSeg]`
-/-- If `r` is a relation on `α` and `s` in a relation on `β`, then `f : r ≺i s` is an order
-embedding whose range is an open interval `(-∞, top)` for some element `top` of `β`. Such order
-embeddings are called principal segments -/
+@[inherit_doc]
 infixl:25 " ≺i " => PrincipalSeg
 
+/-- A `PrincipalSeg` between the `<` relations of two types. -/
+notation:25 α:24 " <i " β:25 => @PrincipalSeg α β (· < ·) (· < ·)
```
Comment (b-mehta) [inline Mathlib/Order/InitialSeg.lean:292]: Don't you want all the le_iff_le; lt_iff_lt lemmas here too?

File: Mathlib/Order/InitialSeg.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:53]: Is it still useful though? As I understand, the notation should be scoped even without this.

Comment (YaelDillies) [reply Mathlib/Order/InitialSeg.lean:53]: What makes you think the notation is currently scoped?

Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:53]: I recall having to open the namespace to have this notation work. If it's not scoped, should it be?

File: Mathlib/Order/InitialSeg.lean (hunk 9 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:292]: Nice catch! Yeah, I forgot about these. Fortunately it's just a bunch of one liners, so I'll bunch all of these theorems together at the end of the file.

File: Mathlib/Order/InitialSeg.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Order/InitialSeg.lean:53]: It doesn't seem scoped to me at all. I don't know whether it should be, but certainly it's out of scope (🥁) to scope it or to remove the porting in this PR

File: Mathlib/Order/InitialSeg.lean [hunk 10]
```diff
@@ -71,6 +77,24 @@ instance : FunLike (r ≼i s) α β where
 instance : EmbeddingLike (r ≼i s) α β where
   injective' f := f.inj'
 
+/-- An initial segment embedding between the `<` relations of two partial orders is an order
+embedding. -/
+def toOrderEmbedding [PartialOrder α] [PartialOrder β] (f : α ≤i β) : α ↪o β :=
+  f.orderEmbeddingOfLTEmbedding
+
+@[simp]
+theorem toOrderEmbedding_apply [PartialOrder α] [PartialOrder β] (f : α ≤i β) (x : α) :
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:86]: It doesn't seem to work for whatever reason.

File: Mathlib/Order/InitialSeg.lean (hunk 7 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:95]: Yep, I've opened #17598 where I add this alongside some missing instances on `PrincipalSeg`.

File: Mathlib/Order/InitialSeg.lean [hunk 11]
```diff
@@ -50,12 +56,13 @@ structure InitialSeg {α β : Type*} (r : α → α → Prop) (s : β → β →
   /-- The order embedding is an initial segment -/
   mem_range_of_rel' : ∀ a b, s b (toRelEmbedding a) → b ∈ Set.range toRelEmbedding
 
--- Porting note: Deleted `scoped[InitialSeg]`
-/-- If `r` is a relation on `α` and `s` in a relation on `β`, then `f : r ≼i s` is an order
-embedding whose range is an initial segment. That is, whenever `b < f a` in `β` then `b` is in the
-range of `f`. -/
+-- Porting note: deleted `scoped[InitialSeg]`
```
Comment (b-mehta) [inline Mathlib/Order/InitialSeg.lean:59]:
```suggestion
-- Porting note: Deleted `scoped[InitialSeg]`
```
very minor but I think this might make git assign the blame for this line correctly

**Comment by b-mehta** [comment]
lgtm, ping me once the merge conflict is fixed and I'll hit merge

**Comment by vihdzp** [comment]
I think it should be fixed now, but let's wait for CI just in case.

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
